US04362728
A mixture of 4-amino-2-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]pyrimidine (0.5 g.), 2,2,2-trifluoroethylisothiocyanate (0.55 g.) and pyridine (10 ml.) was heated at 70° for 18 hours and then evaporated to dryness. The residue was dissolved in ethyl acetate and the solution washed with 2 N aqueous acetic acid, dried and evaporated to dryness. The residue was dissolved in ethanolic ammonia (15 ml.), treated with yellow mercuric oxide (0.4 g.) and the mixture stirred at room temperature for 4 hours. The mixture was filtered and the filtrate evaporated to dryness. The residue was purified by preparative thin layer chromatography using ethyl acetate/methanol/ammonia 6:1:0.5 v/v/v as developing solvent to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[2-(3-cyano-2-methylguanidino)ethylthiomethyl]pyrimidine (0.2 g.) characterised as the hydrogen maleate, m.p. 111°-114° (decomp.) after recrystallisation from acetonitrile.

reactant | 4-amino-2-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]pyrimidine | 0.5 g | NC1=NC(=NC=C1)CSCCNC(=NC#N)NC | C10H15N7S
reactant | 2,2,2-trifluoroethylisothiocyanate | 0.55 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[2-(3-cyano-2-methylguanidino)ethylthiomethyl]pyrimidine | 0.2 g | FC(CN=C(NC1=NC(=NC=C1)CSCCNC(=NC)NC#N)N)(F)F | C13H18F3N9S
